US07005526B2
A solution of 133 mg (0.50 mmol) 2-methyl-4-(2-[1,2,3]triazol-1-yl-ethanesulfinylmethyl)-phenol in 4 ml N,N-dimethylformamide was treated at 0° C. with 24 mg (0.60 mmol) 60% sodium hydride and stirred at that temperature for 30 min, then 152 mg (0.50 mmol) 4-chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole were added and stirring continued over night at room temperature. After addition of 8 ml water, the precipitate was isolated, washed thoroughly with water, methanol/water 1:1, ether and purified by chromatography on silica. Gradient elution with ethyl acetate (5 to 10% methanol) gave 65 mg (24%) 1-[2-(2-methyl-4-{2-[2-(E)-(4-trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl-methanesulfinyl)-ethyl]-1H-[1,2,3]triazole as solid.

reactant | 2-methyl-4-(2-[1,2,3]triazol-1-yl-ethanesulfinylmethyl)-phenol | 0.50 mmol, 133 mg | CC1=C(C=CC(=C1)CS(=O)CCN1N=NC=C1)O | C12H15N3O2S
reactant | sodium hydride | 0.60 mmol, 24 mg | [H-].[Na+]
reactant | 4-chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole | 0.50 mmol, 152 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO2
reactant | water | 8 ml | O | H2O
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-[2-(2-methyl-4-{2-[2-(E)-(4-trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl-methanesulfinyl)-ethyl]-1H-[1,2,3]triazole | 65 mg, 24% | CC1=C(C=CC(=C1)OCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)OC(F)(F)F)CS(=O)CCN1N=NC=C1 | C25H23F3N4O4S
